US04269936
Synthesis of 2'-chloro-4'-dodecyloxycarbonyl-2-methyl-α-phthal-imido-benzoylacetanilide (Coupler 9):
29 g of 2'-chloro-4'-dodecyloxycarbonyl-2-methyl-α-bromo-benzoylacetanilide, 29 g of phthalimide and 20 g of triethylamine were stirred for 3 hours at room temperature in 200 ml of dimethylformamide. The reaction mixture was processed in a manner similar to Synthesis example 1 except for using ligroin for recrystallization to obtain 20 g of coupler 9 having a melting point of from 100° to 101° C.

reactant | 2'-chloro-4'-dodecyloxycarbonyl-2-methyl-α-bromo-benzoylacetanilide | 29 g | ClC1=C(NC(C(Br)C(C2=C(C=CC=C2)C)=O)=O)C=CC(=C1)C(=O)OCCCCCCCCCCCC | C29H37BrClNO4
reactant | phthalimide | 29 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triethylamine | 20 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 2'-chloro-4'-dodecyloxycarbonyl-2-methyl-α-phthal-imido-benzoylacetanilide | ClC1=C(NC(C(N2C(C=3C(C2=O)=CC=CC3)=O)C(C3=C(C=CC=C3)C)=O)=O)C=CC(=C1)C(=O)OCCCCCCCCCCCC | C37H41ClN2O6
